US04697012
A dry 50 mL three neck flask fitted with a reflux condenser and internal thermometer was charged with dry methanol (20 mL). Sodium (516 mg, 0.022 mol) was added in portions and after all the sodium had dissolved the methanol was removed by distillation. The resulting sodium methoxide was cooled and a mixture of methyl-3-methoxyisonicotinoate (2.50 g, 0.015 mol) and methyl acetate (6.65 g, 0.090 mol) was added dropwise. The mixture was refluxed for four hours, allowed to cool and dissolved in water (9.0 mL) and concentrated hydrochloric acid (6.0 mL). The resulting mixture was heated to reflux for 2.5 hours, cooled, and basified with 5% sodium bicarbonate. The mixture was extracted with chloroform (4×50 mL) and the combined extracts dried over sodium sulfate, concentrated, and chromatographed through a short column of silica gel to afford 3-methoxy-4-acetylpyridine (1.05 g, 46%). mp. 36°-37° C.

reactant | Sodium | 0.022 mol, 516 mg | [Na] | Na
reactant | methyl-3-methoxyisonicotinoate | 0.015 mol, 2.50 g | COC(C1=C(C=NC=C1)OC)=O | C8H9NO3
reactant | methyl acetate | 0.090 mol, 6.65 g | C(C)(=O)OC | C3H6O2
reactant | hydrochloric acid | 6.0 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 9.0 mL | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
product | 3-methoxy-4-acetylpyridine | 1.05 g, 46% | COC=1C=NC=CC1C(C)=O | C8H9NO2
